US06245746B1
(B) N-Boc-D-phenylalaninyl 2-Naphthyl Thioether
A mixture of N-Boc-D-phenylalaninol mesylate (0.3 g, 0.9 mmol), dimethylformamide (10 mL), 2-napthalenethiol (0.22 g, 1.39 mmol), diisopropylethylamine (1.39 mmol) and sodium iodide (0.14 g, 0.93 mmol) was kept at 80° C. for 18 hr, cooled to room temperature and methylene chloride (25 ml) was added. This mixture was washed with water (2×10 mL), 1 M sodium hydroxide (3×10 mL) and brine (2×15 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and the filtrate adsorbed onto silica gel and applied to a column prepacked with silica gel. The title compound (121 mg) was eluted with hexane:ethyl acetate (90:10, v:v) to afford a white solid.

reactant | N-Boc-D-phenylalaninol mesylate | 0.9 mmol, 0.3 g | S(C)(=O)(=O)OC[C@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1 | C15H23NO5S
reactant | 2-napthalenethiol | 1.39 mmol, 0.22 g | C1=C(C=CC2=CC=CC=C12)S | C10H8S
reactant | diisopropylethylamine | 1.39 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 0.93 mmol, 0.14 g | [I-].[Na+]
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-Boc-D-phenylalaninyl 2-Naphthyl Thioether | C1=C(C=CC2=CC=CC=C12)SC([C@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C24H25NO3S
